US07056917B2
(D) 4-[2-(3-Bromo-4-ethyl-2-thienyl)ethyl]-2-pyridylamine
tert-Butyl N-{4-[2-(3-bromo-4-ethyl-2-thienyl)ethyl]-2-pyridyl}carbamate (1.34 g, 4.04 mmol) dissolved in dichloromethane (40 ml) was added with trifluoroacetic acid (40 ml) at 0° C. and stirred at 0° C. for 3 hours. The reaction solution was concentrated under reduced pressure, neutralized with saturated sodium hydrogencarbonate and extracted with chloroform, and then the organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:ethyl acetate=3:1→1:1→ethyl acetate only) to obtain 524 mg (56%) of the title compound.

reactant | tert-Butyl N-{4-[2-(3-bromo-4-ethyl-2-thienyl)ethyl]-2-pyridyl}carbamate | 4.04 mmol, 1.34 g | BrC1=C(SC=C1CC)CCC1=CC(=NC=C1)NC(OC(C)(C)C)=O | C18H23BrN2O2S
reactant | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-[2-(3-Bromo-4-ethyl-2-thienyl)ethyl]-2-pyridylamine | 524 mg, 56% | BrC1=C(SC=C1CC)CCC1=CC(=NC=C1)N | C13H15BrN2S
